US08377939B2
To a solution of 2-(4-chloro-benzyl)-5-(3-chloromethyl-[1,2,4]oxadiazol-5-yl)-7-methyl-2,3-dihydroisoindol-1-one (40 mg, 0.103 mmol) in MeCN (4 mL) was added K2CO3 (0.309 mmol) and (1s, 4s)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (31 mg, 0.154 mmol). The mixture was heated at 60° C. overnight. The reaction was cooled and diluted with water, then extracted with EtOAc. The organic phase was washed with brine, dried (Na2SO4), filtered and concentrated. Column chromatography on silica (1% 2M NH3 in MeOH/CH2Cl2) provided 2-(4-chlorobenzyl)-5-[3-(2,5-diazabicyclo[2.2.1]hept-2-ylmethyl)-[1,2,4]oxadiazol-5-yl]-7-methyl-2,3-dihydroisoindol-1-one as a brown solid (27 mg). 1H NMR (300 MHz, CDCl3) δ 8.04 (s, 1H), 7.99 (s, 1H), 7.37 (d, 2H), 7.26 (d, 2H), 4.77 (s, 2H), 4.30 (s, 2H), 3.94 (dd, 2H), 3.58 (d, 2H), 3.26 (d, 1H), 3.11 (d, 1H), 2.89 (d, 1H), 2.84 (s, 3H), 2.63 (d, 1H), 1.88 (d, 1H), 1.66 (d, 1H).

reactant | 2-(4-chloro-benzyl)-5-(3-chloromethyl-[1,2,4]oxadiazol-5-yl)-7-methyl-2,3-dihydroisoindol-1-one | 0.103 mmol, 40 mg | ClC1=CC=C(CN2C(C3=C(C=C(C=C3C2)C2=NC(=NO2)CCl)C)=O)C=C1 | C19H15Cl2N3O2
reactant | K2CO3 | 0.309 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | (1s, 4s)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.154 mmol, 31 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
solvent | MeCN | 4 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 2-(4-chlorobenzyl)-5-[3-(2,5-diazabicyclo[2.2.1]hept-2-ylmethyl)-[1,2,4]oxadiazol-5-yl]-7-methyl-2,3-dihydroisoindol-1-one | 27 mg | ClC1=CC=C(CN2C(C3=C(C=C(C=C3C2)C2=NC(=NO2)CN2C3CNC(C2)C3)C)=O)C=C1 | C24H24ClN5O2
